US04913729
Preparation of 2-[5-(2-chloro-4-(trifluoromethyl)phenoxy)-2-nitrophenylamino]acetonitrile
Into a flask equipped with a reflux condenser, magnetic stirrer, nitrogen inlet and heating mantle, there was added 4-(2-chloro-4-(trifluoromethyl)-phenoxy)-1,2-dinitrobenzene (5 gm, 0.014 mol), aminoacetonitrile hydrochloride (5.1 gm, 0.055 mol), anhydrous potassium carbonate (7.4 gm, 0.053 formula weight) and 50 ml of dioxane. The solution was sirred and refluxed overnight, cooled and poured into water. Following ether extraction, the organic layer was dried and evaporated to a residue. The residual material was chromatographed over silica gel using 15% acetone and 85% hexane as the eluant to yield 800 mg of the desired product.

reactant | 4-(2-chloro-4-(trifluoromethyl)-phenoxy)-1,2-dinitrobenzene | 0.014 mol, 5 gm | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | aminoacetonitrile hydrochloride | 0.055 mol, 5.1 gm | Cl.NCC#N
reactant | potassium carbonate | 7.4 gm | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[5-(2-chloro-4-(trifluoromethyl)phenoxy)-2-nitrophenylamino]acetonitrile | 800 mg | ClC1=C(OC=2C=CC(=C(C2)NCC#N)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H9ClF3N3O3
